US08754226B2
To a solution of (S)-3-amino-1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)pyrrolidin-2-one (0.15 g, 0.41 mmol) in DMF (10 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.160 g, 1.24 mmol) and 6-chloropyridazine-3-carbonitrile (0.173 g, 1.24 mmol) and the reaction was heated to 90° C. overnight. The reaction was diluted with EtOAc (150 mL) and washed with water (100 mL), and brine (10 mL), dried over MgSO4, filtered and concentrated under vacuum. The material was purified on silica, using 1:1 EtOAc:DCM as eluent to yield a solid, which was further triturated with diethyl ether to yield (S)-6-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-ylamino)pyridazine-3-carbonitrile (0.028 g, 0.060 mmol, 14% yield). Mass spectrum (apci) m/z=466.0, 467.9 (M+H).

reactant | (S)-3-amino-1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 0.41 mmol, 0.15 g | N[C@@H]1C(N(CC1)C1CCN(CC1)C1=NC=C(C=C1Cl)C(F)(F)F)=O | C15H18ClF3N4O
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.24 mmol, 0.160 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 6-chloropyridazine-3-carbonitrile | 1.24 mmol, 0.173 g | ClC1=CC=C(N=N1)C#N | C5H2ClN3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (S)-6-(1-(1-(3-chloro-5-(trifluoromethyl)pyridin-2-yl)piperidin-4-yl)-2-oxopyrrolidin-3-ylamino)pyridazine-3-carbonitrile | 0.060 mmol, 0.028 g, 14% yield | ClC=1C(=NC=C(C1)C(F)(F)F)N1CCC(CC1)N1C([C@H](CC1)NC1=CC=C(N=N1)C#N)=O | C20H19ClF3N7O
